US07750034B2
Step C: tert-Butyl 3-[(tert-butoxycarbonyl)amino]-4-[(methylsulfonyl)oxy]pyrrolidine-1-carboxylate
To a solution of tert-butyl 3-[(tert-butoxycarbonyl)amino]-4-hydroxypyrrolidine-1-carboxylate (1-20 g) in dichloromethane (50 mL) at 0° C., triethylamine (0.61 mL) and methanesulfonyl chloride (0.31 mL) were added and the mixture stirred overnight at room temperature. The resulting solution was evaporated under reduced pressure and purified on Biotage Horizon® system (silica, gradient 10-20% ethyl acetate in dichloromethane) to yield the title compound.

reactant | tert-butyl 3-[(tert-butoxycarbonyl)amino]-4-hydroxypyrrolidine-1-carboxylate | 1-20 g | C(C)(C)(C)OC(=O)NC1CN(CC1O)C(=O)OC(C)(C)C | C14H26N2O5
reactant | triethylamine | 0.61 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.31 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | tert-Butyl 3-[(tert-butoxycarbonyl)amino]-4-[(methylsulfonyl)oxy]pyrrolidine-1-carboxylate | C(C)(C)(C)OC(=O)NC1CN(CC1OS(=O)(=O)C)C(=O)OC(C)(C)C | C15H28N2O7S
